US05808062
4-Hydroxy-6-(3-phenoxyphenyl)-3-[(2-phenylethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 3'-phenoxyacetophenone (2.00 g, 9.43 mmol), lithium bis(trimethylsilyl)amide (2.36 g, 14.15 mmol), chlorotrimethylsilane (1.79 mL, 14.15 mmol), THF (100 mL), and diethyl ester of [(2-phenylethyl)thio]-propanedioic acid (1.00 g, 3.37 mmol). m.p. 114°-115° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.76 (t, 2 H), 2.99 (t, 2 H), 6.76 (s, 1 H), 7.09 (m, 7 H), 7.34 (s, 1 H), 7.44 (t, 2 H), 7.56 (m, 2 H).

reactant | 3'-phenoxyacetophenone | 9.43 mmol, 2.00 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C)=O | C14H12O2
reactant | lithium bis(trimethylsilyl)amide | 14.15 mmol, 2.36 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 14.15 mmol, 1.79 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(2-phenylethyl)thio]-propanedioic acid | 3.37 mmol, 1.00 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-6-(3-phenoxyphenyl)-3-[(2-phenylethyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC(=CC=C1)OC1=CC=CC=C1)=O)SCCC1=CC=CC=C1 | C25H20O4S
